US05624943
5.4 ml of trifluoromethanesulfonic anhydride is instilled in a solution of 5 g of 3-iodoaniline in 60 ml of chloroform and 3 g of triethylamine at 0°-5° C., and the mixture is then refluxed for 8 hours. The reaction mixture is poured in water, shaken out with dichloromethane, and the organic phase is concentrated by evaporation. The residue is taken up in 3n sodium hydroxide solution and shaken out with dichloromethane. The water phase is acidified to pH 2 with 10% sulfuric acid, shaken out with dichloromethane, the organic phase is dried on sodium sulfate and concentrated by evaporation. 6.3 g of N-(3-iodophenyl)-1,1,1-trifluoromethanesulfonamide of melting point 75°-77° C. is obtained.

reactant | trifluoromethanesulfonic anhydride | 5.4 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3-iodoaniline | 5 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-(3-iodophenyl)-1,1,1-trifluoromethanesulfonamide | 6.3 g | IC=1C=C(C=CC1)NS(=O)(=O)C(F)(F)F | C7H5F3INO2S
